US07897597B2
7-Benzyloxy-2-methyl-1-(2-methylpropyl)-1H-imidazo[4,5-c]quinoline (16.11 g, 46.6 mmol), 10% palladium on carbon (4.96 g), and ethanol (380 mL) were combined. The mixture was shaken overnight under 50 psi (3.4×105 Pa) of hydrogen and then filtered. The solids were washed with ethyl acetate, and the filtrate was concentrated. Diethyl ether was added to the residue and a green solid formed. The solid was recrystallized from acetonitrile to give 6.63 g of 2-methyl-1-(2-methylpropyl)-1H-imidazo[4,5-c]quinolin-7-ol as a beige solid.

reactant | 7-Benzyloxy-2-methyl-1-(2-methylpropyl)-1H-imidazo[4,5-c]quinoline | 46.6 mmol, 16.11 g | C(C1=CC=CC=C1)OC=1C=CC=2C3=C(C=NC2C1)N=C(N3CC(C)C)C | C22H23N3O
reactant | hydrogen | [H][H] | H2
catalyst | palladium on carbon | 4.96 g | [Pd] | Pd
solvent | ethanol | 380 mL | C(C)O | C2H6O
product | 2-methyl-1-(2-methylpropyl)-1H-imidazo[4,5-c]quinolin-7-ol | 6.63 g | CC=1N(C2=C(C=NC=3C=C(C=CC23)O)N1)CC(C)C | C15H17N3O
